US07994324B2
(R)-Indan-1-yl-(5-morpholin-4-yl-quinolin-2-yl)-amine
The title compound, MS: m/e=346.4 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, (R)-1-aminoindane and morpholine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (R)-Indan-1-yl-(5-morpholin-4-yl-quinolin-2-yl)-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)N1CCOCC1 | C22H23N3O
